US05719168
a) Preparation of N-(2-pyridylmethyl)benzhydrylsulphinylacetamide
To a suspension of 15.44 g (0.06 mol) of benzhydrylsulphinylacetic acid in 90 ml of methylene chloride are added 6.48 g (0.06 mol, i.e. 6.17 ml) of 2-aminomethylpyridine and 12.36 g (0.06 mol) of dicyclohexylcarbodiimide are added to the solution thus obtained. The mixture is heated at reflux for about 3 to 4 hours, then left to cool.

reactant | benzhydrylsulphinylacetic acid | 0.06 mol, 15.44 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)S(=O)CC(=O)O | C15H14O3S
reactant | 2-aminomethylpyridine | 0.06 mol, 6.17 ml, 6.48 g | NCC1=NC=CC=C1 | C6H8N2
reactant | dicyclohexylcarbodiimide | 0.06 mol, 12.36 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 90 ml | C(Cl)Cl | CH2Cl2
product | N-(2-pyridylmethyl)benzhydrylsulphinylacetamide | N1=C(C=CC=C1)CNC(CS(=O)C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H20N2O2S
